US07569578B2
(±)-N-(2-(7-Methyl-1H-indazol-5-yl)-1-(6-phenylpyridin-2-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide
To a microwave tube charged with (±)-N-(1-(6-bromopyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide (24.6 mg, 0.0418 mmol, 1.0 equiv) was added phenyl boronic acid (7.1 mg, 0.0585 mmol, 1.4 equiv), Pd(PPh3)4 (4.8 mg, 0.1 equiv), toluene (1 mL), ethanol (0.2 mL), and potassium carbonate solution (2M, 0.085 mL). The vial was sealed and heated by microwave at 140° C. for 30 min. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated. Flash column chromatography (10% methanol/methylene chloride) afforded the desired product (20 mg, 81.6%) as an off-white solid: MS (ESI) [M+H]+=586. 1H-NMR (400 MHz, CDCl3) δ 8.00-7.86 (m, 3H), 7.65-6.82 (m, 12H), 6.74 (d, J=7.2 Hz, 1H), 6.66 (d, J=8.0 Hz, 1H), 6.32 (br., 1H), 5.35-5.20 (m, 1H), 4.62-4.48 (m, 1H), 4.30-4.08 (m, 4H), 3.40 (dd, J=13.2 and 4.2 Hz, 1H), 3.13 (dd, J=13.2 and 8.4 Hz, 1H), 3.02-2.83 (m, 2H), 2.42 (s, 3H), 1.80-1.55 (m, 4H). HPLC tR=1.51 min.

reactant | (±)-N-(1-(6-bromopyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | 0.0418 mmol, 24.6 mg, 1.0 equiv | BrC1=CC=CC(=N1)C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C29H30BrN7O2
reactant | phenyl boronic acid | 0.0585 mmol, 7.1 mg, 1.4 equiv | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | 2M, 0.085 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 4.8 mg, 0.1 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 0.2 mL | C(C)O | C2H6O
product | (±)-N-(2-(7-Methyl-1H-indazol-5-yl)-1-(6-phenylpyridin-2-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | 20 mg, 81.6% | CC=1C=C(C=C2C=NNC12)CC(C1=NC(=CC=C1)C1=CC=CC=C1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C35H35N7O2
